US04289765
8. 4-Benzylamino-2,6-dimethyl-3-nitropyridine hydrochloride
9.3 Grams (0.05 mol) of 4-chloro-2,6-dimethyl-3-nitropyridine and 10.7 g (0.1 mol) of benzylamine are heated for 5 hours at boiling point in 20 ml of isopropanol. After cooling, the mixture is concentrated, dissolved in water and extracted with chloroform. The chloroform phase is dried with sodium sulfate and concentrated. The residue is converted with ethanolic hydrochloric acid into the hydrochloride and recrystallized from isopropanol.

reactant | 4-chloro-2,6-dimethyl-3-nitropyridine | 0.05 mol | ClC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | benzylamine | 0.1 mol, 10.7 g | C(C1=CC=CC=C1)N | C7H9N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-Benzylamino-2,6-dimethyl-3-nitropyridine hydrochloride | Cl.C(C1=CC=CC=C1)NC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | InChI=1S/C14H15N3O2.ClH/c1-10-8-13(14(17(18)19)11(2)16-10)15-9-12-6-4-3-5-7-12;/h3-8H,9H2,1-2H3,(H,15,16);1H
